* X:\Documents\GitHub\Hardware_Vocoder\Hardware\Simulation\Ina217\Ina217 Mic.asc
* Generated by LTspice 24.1.6 for Windows.
X§U1 N007 N003 N001 N009 N006 NC_01 N005 N004 INA217
V§XLR_3 N002 0 SINE(0 2m 1K)
V§XLR_2 N008 0 SINE(0 -2m 1K)
C1 N003 N002 1µF
C2 N007 N008 1µF
V1 N001 0 5V
V2 N009 0 -5V
D1 N003 N001 1N4148
D2 N009 N003 1N4148
D3 N007 N001 1N4148
D4 N009 N007 1N4148
R1 N007 0 2.2K
R2 N003 0 2.2K
C3 N001 0 0.1µF
C4 N009 0 0.1µF
R3 N006 0 1Meg
R4 N004 N005 1k
.model D D
.lib C:\users\steamuser\AppData\Local\LTspice\lib\cmp\standard.dio
.tran {50/fs}
.param fs=4kHz
.incl INA217.txt
* XLR_1
.lib INA217.txt
.backanno
.end
